US04443443
To a solution of N-[3-(4-phenyl-1-piperazinyl)propyl]phthalimide (18.3 g) in ethanol (300 ml) was added 100% hydrazine hydrate (5.3 g). The resulting mixture was refluxed with stirring for 2 hours. The reaction mixture was evaporated under reduced pressure. After the addition of dil. aqueous solution of sodium hydroxide to the residue, the mixture was extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and then evaporated under reduced pressure to give 3-(4-phenyl-1-piperazinyl)propylamine (11.2 g).

reactant | N-[3-(4-phenyl-1-piperazinyl)propyl]phthalimide | 18.3 g | C1(=CC=CC=C1)N1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H23N3O2
reactant | hydrazine hydrate | 5.3 g | O.NN
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-(4-phenyl-1-piperazinyl)propylamine | 11.2 g | C1(=CC=CC=C1)N1CCN(CC1)CCCN | C13H21N3
